Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Seizure
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
HPI:
___ with hx of chronic EtOH abuse and seizure disorder on
vimpat/keppra presents as transfer from ___ with concern
for ___. Patient is poor historian and states he messes up his
medications some times but has been better lately. Does not know
why he's in the hospital. Per EMS was found down, confused and
incontinent of urine by roommate. Head CT showed Posterior
falx/tentorial SDH, approximately 3mm. Repeat CT after 4 hours 
at
OSH stable. Transferred to ___ for neurosurgical evaluation.

PMHx:
Seizure disorder
EtOH abuse
 
Past Medical History:
- Seizure disorder (grand mal seizures as a child, then in 
remission for many years until recent recurrence) 
- ETOH Abuse, prior EtOH w/d Seizures.  Currently 8 weeks sober.
- Chronic Hyponatremia
 
Social History:
___
Family History:
-No family history of seizures
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
O: T: 96.8F  BP: 108/65, HR: 64, R 20, O2Sats 97% RA

Gen: WD/WN, comfortable, NAD, sleeping.
HEENT: PERRL 3-2mm, EOMs intact
Neck: Supple.

Extrem: Warm and well-perfused.

Neuro:
Mental status: Sleeping when initially entered room, but
arousable to be awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, ___ but not
date.
Recall: ___ objects at 5 minutes.
Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 3 to 2
mm bilaterally. Visual fields are full to confrontation.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. Strength full power ___
throughout, except for right delt 4+/5 secondary to "broken
shoulder." No pronator drift. 

Sensation: Intact to light touch, propioception, pinprick and
vibration bilaterally.

Toes downgoing bilaterally

 
Pertinent Results:
LABS:
=====
___ 04:45AM BLOOD WBC-3.1* RBC-4.36* Hgb-13.5* Hct-40.1 
MCV-92 MCH-31.0 MCHC-33.7 RDW-16.4* RDWSD-55.4* Plt Ct-58*
___ 04:45AM BLOOD ___ PTT-29.7 ___
___ 04:45AM BLOOD Glucose-87 UreaN-6 Creat-0.5 Na-137 K-4.1 
Cl-101 HCO3-26 AnGap-10
___ 06:23AM BLOOD ALT-51* AST-108* AlkPhos-170* 
TotBili-2.1*
___ 04:45AM BLOOD Calcium-8.5 Phos-1.8* Mg-1.4*
___ 06:25AM BLOOD Lactate-2.1*

BRAIN MRI
==========
1. No significant interval change in the small left subdural 
hemorrhage along 
the left tentorium and posterior parasagittal falx. 
2. Small amount of subacute hemorrhage in the left posterior 
fossa. 
3. Unchanged more focal subacute hematoma along the posterior 
septum 
pellucidum. 
4. Nonspecific thickening an enhancing of the left frontal 
convexity dura. 
5. No acute infarction or focal mass. 
6. Moderate cerebral atrophy, advanced for age. 

HEAD CT
=======
Noncontrast Head CT:
Thickening of posterior falcine and tentorial (L>R) SDH,
approximately 3mm at widest, without midline shift or herniation
 
Brief Hospital Course:
Mr. ___ is a ___ year old right handed man with past medical 
history of childhood epilepsy, chronic alcohol abuse complicated 
by alcohol withdrawal seizures, who presented with a 
breakthrough seizure in the setting of months of uncontrolled
seizures likely related to medication non-adherence and alcohol 
withdrawal. He was found to have multiple small hematomas on 
brain MRI, likely from his fall after having a seizure and was 
evaluated by neurosurgery who did not recommend intervention. 
His mental status has returned to baseline and he was restarted 
on his AEDs at home doses. He has not had a subsequent seizure 
since presentation. Social work met with him to strategize ways 
to remember his medication. For his alcohol use disorder, CIWAs 
were monitored, he did not require any additional valium after 
the ED. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LACOSamide 200 mg PO BID 
2. LevETIRAcetam 1500 mg PO BID 

 
Discharge Medications:
1.  Calcium Carbonate 500 mg PO DAILY 
RX *calcium carbonate 500 mg calcium (1,250 mg) 1 tablet(s) by 
mouth daily Disp #*30 Tablet Refills:*6 
2.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*3 
3.  Neutra-Phos 1 PKT PO ONCE Duration: 1 Dose 
RX *potassium, sodium phosphates [Phos-NaK] 280 mg-160 mg-250 mg 
1 powder(s) by mouth daily Disp #*30 Packet Refills:*6 
4.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 50 mg 2 tablet(s) by mouth daily 
Disp #*60 Tablet Refills:*3 
5.  Vitamin D 1500 UNIT PO DAILY 
RX *ergocalciferol (vitamin D2) 2,000 unit 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*6 
6.  LACOSamide 200 mg PO BID  
7.  LevETIRAcetam 1500 mg PO BID  

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
Epilepsy with breakthrough seizures

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 
You were admitted to ___ neurology service because you had 
multiple seizures and needed time to get back to yourself. You 
did not have any further seizures. You were given your 
medications of Keppra and Vimpat. It is important that you take 
these medication as prescribed and that you follow up with your 
Neurologist to help adjust your medications so you have better 
seizure control. In order to help with taking your medications, 
we have set up ___ to help you and will arrange for pill packs. 
Your medications regimen is as follows:
Keppra 1500mg (2 pills of 750mg each) twice per day
Vimpat 200mg (1 pill of 200mg) twice per day

We also prescribed you some vitamins to help keep your 
electrolytes normal and to improve your bone health. 

We also strongly recommend that you go to outpatient alcohol 
rehab. We are worried that you may pass away if you continue to 
drink. 

Sincerely, 
___ Neurology
 
Followup Instructions:
___